US08729095B2
To a tetrahydrofuran solution (195 ml) of tert-butyl 4-(7-chloro-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate (13.0 g) was added dropwise at −78° C. a tetrahydrofuran solution (1 M, 39.1 ml) of lithium hexamethyldisilazide. After stirring at the same temperature for 30 minutes, a tetrahydrofuran solution (65 ml) of methyl iodide (2.65 ml) was added dropwise. After stirring at the same temperature for 10 minutes and under ice cooling for 1 hour, ethyl acetate and water were added to the reaction solution, and the solution was separated. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford tert-butyl 4-(7-chloro-3-methyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate (12.2 g).

reactant | tetrahydrofuran | 195 ml | O1CCCC1 | C4H8O
reactant | tert-butyl 4-(7-chloro-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 13.0 g | ClC1=CN=C2CCC(N(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H24ClN3O3
reactant | tetrahydrofuran | 1 M, 39.1 ml | O1CCCC1 | C4H8O
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
reactant | methyl iodide | 2.65 ml | CI | CH3I
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(7-chloro-3-methyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 12.2 g | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C19H26ClN3O3
